Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ M w/ PMh developmental delay, HLD, HTN, R parietal stroke
___, T2DM c/b neuropathy, osteoporosis, hip fracture, TBI in
___ with SDH presents as code stroke

He was last known well around ___ today, when he was seen 
waking
up at his group home. He was then taken to his adult day care.
Around 0900 or so, the exact time is not clear, an employee at
his facility tells me that he saw that when he came out of the
van that was dropping him off, he was leaning to the left in his
wheelchair and had a left facial droop.  At baseline he is
reported to be oriented to self only. The employee called ___ and
nursing over, who assessed him, and then arranged for him to be
transferred here for further evaluation. The employee has never
noticed L sided weakness like today or a L facial droop. He
states that the patient's speech and mental status seemed at
baseline currently and when he first saw him today. At baseline
patient uses a wheelchair to get around. When I asked the 
patient
why he was at the hospital, he replied that he "fell down" and 
is
unable to provide more detail about what happened. Patient was
hospitalized here in ___ on the neurosurgery service after 
he
was found down at his group home and found to have TBI w/ EDH vs
SDH on imaging. This has been noted to have reabsorbed on follow
up CT in ___. In review of other notes, it does not appear
that he was ever documented as having any left facial asymmetry.

His discharge exam from neurosurgery o ___ was listed as
"Moving BUE spontaneously and independently - ___ in strength
Moving BLE spontaneously and independently and equally : ___

He follows with Dr. ___ at ___ neurology, who he last saw
in ___. His stroke in ___ were characterized by the
following symptoms per Dr. ___: "witnessed sudden
decrease in interaction, where  his speech was arrested, 
possibly
even dysarthric and mumbled, and then he fell to the right.  His
eyes were open during this time, but no deviation or any
tonic-clonic activity or incontinence was observed.   He had a
negative CT and preliminarily negative CTA of the head and neck. 

Further testing was recommended, including MRI and EEG.  MRI
showed a small, probable late acute to early subacute infarct in
the right parietal periventricular white matter, as well as more
extensive chronic small vessel ischemic disease and moderate
diffuse brain atrophy.  His EEG showed theta slowing but no
epileptiform activity."

 
Past Medical History:
-Developmental delay (per ___ notes)
-HTN
-HLD
-Depression
-DM II with diabetic retinopathy, nephrophathy, and diabetic
neuropathy               
-Osteoporosis
-Hip fracture x2
-Toe osteomyelitis ___
-CVA ___
-PVD
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Exam:
24 HR Data (last updated ___ @ 836)
    Temp: 97.3 (Tm 98.8), BP: 149/83 (109-153/67-83), HR: 64
(64-86), RR: 18, O2 sat: 100% (97-100), O2 delivery: Ra  
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to self. can not provide any of
the history. Repeats "Its a sunny day in ___ Cant say days
of the week backwards. Identified watch and knuckles. Declines
reading stroke card or naming items. Responds in ___ word
sentences usually. Voice soft. Follows commands. No signs of
neglect. 

-Cranial Nerves:
II, III, IV, VI: PERRL 2->1mm and brisk. EOMI without nystagmus.
Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII:  L NLFF< slight facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. L arm drifts downwards.
No adventitious movements, such as tremor or asterixis noted.
Unable to formally test strength. Both legs are briefly
antigravity, but difficult to have him sustain this when asked
to.

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. Romberg absent. 

-Reflexes: not done

-Coordination: No intention tremor. no dysmetria on reaching for
objects

-Gait: unable 

Discharge Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to self. Can repeat. Responds in 
___ word
sentences. Voice soft. Follows commands. No signs of neglect. 

-Cranial Nerves:
II, III, IV, VI: PERRL 2->1mm and brisk. EOMI without nystagmus.
Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII:  L NLFF< slight facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. L arm drifts downwards.
No adventitious movements, such as tremor or asterixis noted.
Unable to formally test strength. Both legs are antigravity.

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.  

-Coordination: No intention tremor. no dysmetria on reaching for
objects
 
Pertinent Results:
CT/CTA head:
 
1. No occlusion or dissection within the intracranial and 
extracranial 
bilateral internal carotid arteries and vertebral arteries, the 
circle of 
___, or its major branches. The vertebrobasilar system is 
widely patent.  
Redemonstration of mild calcification of the cavernous ICAs 
bilaterally 
causing mild luminal narrowing and mild atherosclerotic 
calcifications at the 
origin of the bilateral ICAs without definite narrowing by 
NASCET criteria. 
2. Redemonstration 5 mm hypodense thyroid nodule within the 
isthmus of the 
thyroid. Absent suspicious imaging features, unless there is 
additional 
clinical concern, ___ College of Radiology guidelines do 
not recommend 
further evaluation for incidental thyroid nodules less than 1.0 
cm in patients 
under age ___ or less than 1.5 cm in patients age ___ or ___. 

MRI brain:
 
1. Study is mildly degraded by motion. 
2.  No acute intracranial abnormality, with no definite evidence 
of acute 
infarct. 
3. Global volume loss and probable microangiopathic changes as 
described. 
4.  Paranasal sinus disease and nonspecific bilateral mastoid 
fluid, as 
described. 

 
Brief Hospital Course:
___ M w/ PMh developmental delay, HLD, HTN, R parietal stroke
___, T2DM c/b neuropathy, osteoporosis, hip fracture, TBI in
___ with ___ presents as code stroke on ___ due to Left
facial droop, L sided weakness. On exam, he does not fully
participate in exam, but the L arm appeared weaker, drifting 
down,
and there was L NLFF, and perhaps some facial droop. This was 
initially concerning for stroke. Given his poor cognitive 
baseline, it was hard to assess based on exam alone and he was 
admitted for MRI to rule out stroke. CT and MRI brain completed 
with no findings consisted with new infarct. There did not 
appear to be any toxic metabolic disturbances on labs, UA, CXR. 
He was back to baseline upon assessment the morning after. 
Symptoms likely pre-syncopal in a patient with residual 
deficits. 
 
Medications on Admission:
atorva 80 daily
aspirin 81 daily
amlodipine 5 mg daily
calcium 600 md BID
ferrous sulfate 325 mg BID
fluoxetine 20 mg daily
irbesartan 150 mg daily
metoprolol succinate 50 mg daily
docusate 100 mg daily
tradjenta 5 mg daily
vitamin D3 ___ units daily
repaglinide 1 mg TID before meals
metformin 1000 mg BID
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Calcium Carbonate 500 mg PO BID  
4.  Docusate Sodium 100 mg PO BID  
5.  Ferrous Sulfate 325 mg PO BID  
6.  FLUoxetine 20 mg PO DAILY  
7.  Metoprolol Tartrate 12.5 mg PO BID  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
pre-syncope 

 
Discharge Condition:
mental status: baseline
ambulatory status: non-ambulatory

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ stroke service for concern for 
stroke. A CT and MRI of your brain was done and was not 
consistent with a new stroke. Your symptoms were likely due to a 
pre-syncopal event. You were deemed back to your baseline and 
good to go back to your group home. It was a pleasure caring for 
you!

Sincerely, 
Your ___ Stroke Team
 
Followup Instructions:
___